US08058276B2
To a suspension of 1.7 g (10.1 mMol) 6-hydroxy-pyrimidine-4-carboxylic acid ethyl ester in 30 ml of tert-butanol, 1.2 g (31 mMol) of NaBH4 are added. The mixture is stirred at 60° C. for 20 h and cooled to rt. Then 45 ml of acetone are added. After stirring for 15 min, the mixture is concentrated in vacuo. The residue is diluted with toluene and again concentrated, yielding (6-hydroxy-pyrimidin-4-yl)-methanol (MS: [M−1]=125).

reactant | 6-hydroxy-pyrimidine-4-carboxylic acid ethyl ester | 10.1 mMol, 1.7 g | C(C)OC(=O)C1=NC=NC(=C1)O | C7H8N2O3
reactant | NaBH4 | 31 mMol, 1.2 g | [BH4-].[Na+]
reactant | acetone | 45 ml | CC(=O)C | C3H6O
solvent | tert-butanol | 30 ml | C(C)(C)(C)O | C4H10O
product | (6-hydroxy-pyrimidin-4-yl)-methanol | OC1=CC(=NC=N1)CO | C5H6N2O2
